US07531532B2
1-(3-Diethylaminopropyl)-3-[4-(2-methyl-4-nitrophenoxy)pyridin-2-yl]urea
To a solution of 4-(2-methyl-4-nitrophenoxy)pyridin-2-ylamine and triethylamine (500 mg) in tetrahydrofuran (50 ml) was added phenyl chloroformate (0.384 ml, 4.08 mmol) dropwise while stirring in an ice bath, followed by stirring for 0.5 hr. The reaction mixture was concentrated under a reduced pressure to give a residue, to which N,N-dimethylformamide (20 ml) and N,N-diethyl-1,3-propanediamine (1.28 ml) were then added, followed by stirring at room temperature for 2 hrs. The reaction mixture was partitioned between ethyl acetate (150 ml) and water (100 ml). The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under a reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:1, then ethyl acetate) to provide the titled compound (794 mg, 96.9%) as a pale yellow oil.

reactant | 4-(2-methyl-4-nitrophenoxy)pyridin-2-ylamine | CC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C12H11N3O3
reactant | triethylamine | 500 mg | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 4.08 mmol, 0.384 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N,N-diethyl-1,3-propanediamine | 1.28 ml | C(C)N(CCCN)CC | C7H18N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(3-Diethylaminopropyl)-3-[4-(2-methyl-4-nitrophenoxy)pyridin-2-yl]urea | 794 mg, 96.9% | C(C)N(CCCNC(=O)NC1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])C)CC | C20H27N5O4
